US05326870
To 14.2 g of 1-chloro-5-isoquinolinesulfonic acid were added 142 ml of thionyl chloride and 1 . 42 ml of dimethylformamide. The resultant mixture was heated under reflux for 3 hours and the thionyl chloride was removed by distillation under reduced pressure to obtain a residue. The thus obtained residue was dissolved in 100 ml of ice water and adjusted to a pH of 6 with a saturated aqueous sodium carbonate solution, followed by extraction with 100 ml of dichloromethane to obtain a dichloromethane phase. The dichloromethane phase was dropwise added to 100 ml of a dichloromethane solution containing 15.4 g of 1-(2-aminoethyl)-4-[3-(phenoxy)propyl]piperazine and 6.5 g of triethylamine over 30 minutes while cooling with ice. The resultant mixture was stirred at a temperature of 15° C. to 20° C. for 2 hours to carry out a reaction. After completion of the reaction, the reaction mixture was washed with 200 ml of water and dried over anhydrous magnesium sulfate. Then, solvent removal was conducted by distillation under reduced pressure to thereby obtain a residue. The thus obtained residue was subjected to purification by means of a column for chromatography packed with 250 g of silica gel (Wakogel C-200, manufactured by Wako Pure Chemical Industries, Ltd., Japan) using a mixed solvent of methanol and chloroform (2% methanol) as an eluent, to thereby obtain 19.6 g of 1 -(1-chloro-5-isoquinolinesulfonylaminoethyl)-4-[3-(phenoxy) propyl]piperazine (yield: 69%).

reactant | 1-chloro-5-isoquinolinesulfonic acid | 14.2 g | ClC1=NC=CC=2C(=CC=CC12)S(=O)(=O)O | C9H6ClNO3S
reactant | thionyl chloride | 142 ml | S(=O)(Cl)Cl | Cl2OS
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-(2-aminoethyl)-4-[3-(phenoxy)propyl]piperazine | 15.4 g | NCCN1CCN(CC1)CCCOC1=CC=CC=C1 | C15H25N3O
solvent | triethylamine | 6.5 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 42 ml | CN(C=O)C | C3H7NO
product | 1 -(1-chloro-5-isoquinolinesulfonylaminoethyl)-4-[3-(phenoxy) propyl]piperazine | 19.6 g, yield: 69% | ClC(CNS(=O)(=O)C=1C=2C=CN=CC2C=CC1)N1CCN(CC1)CCCOC1=CC=CC=C1 | C24H29ClN4O3S
